US08895588B2
tert-butyl({5-[(3-cyanophenyl)sulfonyl]-1-(2-fluoropyridin-3-yl)-1H-pyrazol-3-yl}methyl)methylcarbamate
A solution of tert-butyl({5-[(3-bromophenyl)sulfonyl]-1-(2-fluoropyridin-3-yl)-1H-pyrazol-3-yl}methyl)methylcarbamate (315 mg) and zinc cyanide (107 mg) in dimethylformamide (3 mL) was sufficiently deaerated, tetrakis(triphenylphosphine)palladium(0) (138 mg) was added, and the mixture was further deaerated. After stirring under an argon atmosphere at 110° C. for 2 hr, the reaction mixture was allowed to cool to room temperature, washed with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate=9:1→2:1) to give the title compound as a yellow oil (yield 247 mg, yield 87%).

reactant | tert-butyl({5-[(3-bromophenyl)sulfonyl]-1-(2-fluoropyridin-3-yl)-1H-pyrazol-3-yl}methyl)methylcarbamate | 315 mg | C(C)(C)(C)OC(N(C)CC1=NN(C(=C1)S(=O)(=O)C1=CC(=CC=C1)Br)C=1C(=NC=CC1)F)=O | C21H22BrFN4O4S
reactant | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
catalyst | zinc cyanide | 107 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 138 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl({5-[(3-cyanophenyl)sulfonyl]-1-(2-fluoropyridin-3-yl)-1H-pyrazol-3-yl}methyl)methylcarbamate | yield 247 mg, yield 87% | C(C)(C)(C)OC(N(C)CC1=NN(C(=C1)S(=O)(=O)C1=CC(=CC=C1)C#N)C=1C(=NC=CC1)F)=O | C22H22FN5O4S
